US07189712B2
Preparation of 3-bromophenacyl azide
A solution of 20.2 g (73 mmol) of 3-bromophenacyl bromide and 5.42 g (83 mmol) of sodium azide was stirred at RT for 90 min in methanol. The solvent was removed under reduced pressure and the crude product was partitioned between ethyl acetate (200 ml) and water (100 mL). The organic layer was separated, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to afford the title compound (17.4 g, 99%) as a light yellow solid. 1H NMR (400 MHz, d6-DMSO): δ 8.10 (d, J=1.0, 1H), 7.90–7.97 (m, 2H), 7.22 (t, J=7.9, 1H), 4.93 (s, 2H).

reactant | 3-bromophenacyl bromide | 73 mmol, 20.2 g | BrC=1C=C(C(CBr)=O)C=CC1 | C8H6Br2O
reactant | sodium azide | 83 mmol, 5.42 g | [N-]=[N+]=[N-].[Na+]
solvent | methanol | CO | CH4O
product | 3-bromophenacyl azide | 17.4 g, 99% | BrC=1C=C(C(CN=[N+]=[N-])=O)C=CC1 | C8H6BrN3O
